US09107411B2
2-Chloro-4,5-dinitrobenzoic acid (known from WO-A-2009/47558) (8.0 g, 32.5 mmol) was dissolved in 1,2-dichloroethane (80 ml), and thionyl chloride (20 ml) was added under nitrogen. The reaction mixture was heated under reflux for 4 h and then the solvent was removed under reduced pressure. The residue was dissolved in dichloromethane (80 ml) and, at 0° C., cyclopropylamine (2.4 ml, 39 mmol) was added. The reaction mixture was stirred at room temperature for 2 h and then the solvent was removed under reduced pressure. The residue was stirred with diethyl ether (50 ml) for 30 min and then filtered off with suction. The residue was washed with water (100 ml) and dried. 7.5 g (81% of theory) of 2-chloro-N-cyclopropyl-4,5-dinitrobenzamide were thus obtained.

reactant | 2-Chloro-4,5-dinitrobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C7H3ClN2O6
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | cyclopropylamine | 39 mmol, 2.4 ml | C1(CC1)N | C3H7N
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
product | 2-chloro-N-cyclopropyl-4,5-dinitrobenzamide | 7.5 g, 81% | ClC1=C(C(=O)NC2CC2)C=C(C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C10H8ClN3O5
